US05681958
2-(Phenoxyacetamido)benzoic Acid
To a solution of anthranilic acid (5 g, 0.036 mol) in NaOH (3 g, 30 mL) was added phenoxyacetyl chloride (6.2 g, 5.2 mL) dropwise at 0° C. The reaction mixture was stirred at 0° C. for 30 min, acidified with dilute hydrochloric acid and filtered. The filtered solid was dissolved in EtOAc and filtered. The filtrate was dried, filtered, concentrated and dried for 4 h under vacuum, affording 8 g (81%) of the title compound, mp 201°-203° C. A small amount (100 mg) of the title compound was recrystallized from EtOH, affording 75 mg of the title compound, mp 202°-203° C.; 1H NMR (DMSO-d6) δ 13.70 (s, 1H, COOH), 12.20 (s, 1H, NH), 8.71 (d, 1H, J=8.4), 8.02 (dd, 1H, J=7.6), 7.65-7.60 (m, 1H), 7.35-6.89 (m, 6H), 4.73 (s, 2H) ; 13C NMR (DMSO-d6) δ 169.44, 167.23, 157.11, 140.22, 134.34, 131.32, 129.65, 129.45, 123.06, 121.65, 120.96, 119.45, 116.14, 114.81, 114.38, 67.22; MS (EI, m/z) 271 (M+).

reactant | anthranilic acid | 0.036 mol, 5 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | phenoxyacetyl chloride | 5.2 mL, 6.2 g | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | NaOH | 30 mL, 3 g | [OH-].[Na+]
product | 2-(Phenoxyacetamido)benzoic Acid | 8 g, 81% | O(C1=CC=CC=C1)CC(=O)NC1=C(C(=O)O)C=CC=C1 | C15H13NO4
